US06340678B1
A solution of 190 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(1-trityl-1H-imidazol-4-yl)methyl]-acetamide in 20 ml of a 90% aqueous solution of acetic acid was stirred at 60° C. for 1.5 hours. After evaporating the solvent therefrom, ethyl acetate and 3N hydrochloric acid were added to undergo liquid separation. The aqueous layer was neutralized with potassium carbonate and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was collected by filtration and washed with ethyl acetate to give 110 mg of (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(1H-imid-azol-4-yl)methyl]acetamide as a colorless powder.

reactant | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(1-trityl-1H-imidazol-4-yl)methyl]-acetamide | 190 mg | FC\1(CCN(C2=C(/C1=C/C(=O)NCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C46H37F2N5O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]-N-[(1H-imid-azol-4-yl)methyl]acetamide | 110 mg | FC\1(CCN(C2=C(/C1=C/C(=O)NCC=1N=CNC1)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C27H23F2N5O2S
